US06825188B2
e) Methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxydihydrocinnamate
To 10% Pd/C (5 g, 4.7 mmol, prewetted with DMF) was added a solution of methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)amino]methyl-4-methoxycinnamate (45.85 g, 113 mmol) in methanol (100 mL). The mixture was shaken under hydrogen (50 psi) in a Parr apparatus for 6 hr, then was filtered through a pad of celite® to remove the catalyst. The filtrate was concentrated to afford the title compound (43.71 g, 95%) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 7.11 (d, J=8 Hz, 1H), 6.78 (dd, 1H), 6.65 (s, 1H), 4.63 and 4.60 (2s, 2H), 3.84 and 3.70 (2m, 2H), 3.77 (s, 3H), 3.66 (s, 3H), 2.86 (t, 2H), 2.53 (t, 2H), 1.50 and 1.44 (2s, 9H).

reactant | methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)amino]methyl-4-methoxycinnamate | 113 mmol, 45.85 g | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC1=C(C=CC(=O)OC)C=CC(=C1)OC | C19H24F3NO5
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 4.7 mmol, 5 g | [Pd] | Pd
product | Methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxydihydrocinnamate | 43.71 g, 95% | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC1=C(CCC(=O)OC)C=CC(=C1)OC | C19H26F3NO5
